US06509328B1
{2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-isopropyl-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-isopropyl-phenyl)-carbamic acid tert.-butyl ester (Example G47) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example H10) according to the general procedure K. Obtained as a light brown solid (183 mg).

reactant | (2-amino-4-isopropyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(C)C)N)=O | C14H22N2O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | {2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-isopropyl-phenyl}-carbamic Acid tert.-Butyl Ester | 183 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(C)C)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C23H26N4O4
